US08975398B2
tert-butyl 4-(4-aminophenyl)-4-hydroxypiperidine-1-carboxylate
N-(4-Bromophenyl)-1,1,1-trimethyl-N-(trimethylsilyl)silanamine (7 g, 22.12 mmol) in tetrahydrofuran (100 mL) was treated with a solution of n-BuLi (1M, 22 mL) at −78° C. The reaction mixture was stirred an additional hour at −78° C. and then treated with a solution of tert-butyl 4-oxopiperidine-1-carboxylate (3.97 g, 19.91 mmol) in tetrahydrofuran (20 mL). The reaction mixture was stirred at −78° C. for 30 minutes and then warmed to room temperature. The reaction was quenched by addition of saturated ammonium chloride solution (100 mL) and then was extracted with ethyl acetate. The combined organics were washed with water, brine, dried with magnesium sulfate, filtered and concentrated. The crude tert-butyl 4-(4-(bis(trimethylsilyl)amino)phenyl)-4-hydroxypiperidine-1-carboxylate was treated with a solution of tetrabutylammonium fluoride (1M THF, 40 mL) at room temperature for 1 hour. The reaction mixture was diluted with water and extracted with ethyl acetate. The organics were washed with water and brine, dried with magnesium sulfate, filtered and concentrated. Purification by normal phase chromatography provided the title compound.

reactant | N-(4-Bromophenyl)-1,1,1-trimethyl-N-(trimethylsilyl)silanamine | 22.12 mmol, 7 g | BrC1=CC=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C | C12H22BrNSi2
reactant | n-BuLi | 1M, 22 mL | [Li]CCCC
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 19.91 mmol, 3.97 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(4-aminophenyl)-4-hydroxypiperidine-1-carboxylate | NC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H24N2O3
